US06579883B1
A solution of 374 mg (2.0 mmol) of 1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 50 ml of THF is mixed at room temperature with 655 mg (3.0 mmol) of pyrocarbonic acid-di-tert-butylester and 367 mg (3.0 mmol) of 4-(dimethylamino)-pyridine. After 64 hours at room temperature, the reaction mixture is concentrated by evaporation, and the residue is purified by column chromatography on silica gel with hexane-ethyl acetate. In this case, 350 mg of 5-tert-butoxycarbonyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one is isolated:

reactant | 1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 2.0 mmol, 374 mg | C1CCC2C(NC=3C=CC=CC3C21)=O | C12H13NO
reactant | pyrocarbonic acid-di-tert-butylester | 3.0 mmol, 655 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | 4-(dimethylamino)-pyridine | 3.0 mmol, 367 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-tert-butoxycarbonyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 350 mg | C(C)(C)(C)OC(=O)N1C(C2C(C=3C=CC=CC13)CCC2)=O | C17H21NO3
